US04374248
3-{2-[(3-Chloro-2-pyridyl)methylthio]ethylamino}-4-{2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamino}-1,2,5-thiadiazole 1,1-dioxide
When a methanolic solution of 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide is successively treated with 2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamine and 2-[(3-chloro-2-pyridyl)methylthio]ethylamine, the title compound is thereby produced.

reactant | 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide | COC1=NS(N=C1OC)(=O)=O | C4H6N2O4S
reactant | 2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamine | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 2-[(3-chloro-2-pyridyl)methylthio]ethylamine | ClC=1C(=NC=CC1)CSCCN | C8H11ClN2S
product | 3-{2-[(3-Chloro-2-pyridyl)methylthio]ethylamino}-4-{2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamino}-1,2,5-thiadiazole 1,1-dioxide | ClC=1C(=NC=CC1)CSCCNC1=NS(N=C1NCCSCC=1OC(=CC1)CN(C)C)(=O)=O | C20H27ClN6O3S3
